US06294112B1
3(4-Morpholinophenyl)-3-phenyl-3H-naphtho[2,1-b]pyran from 2-naphthol and 1(4-morpholinophenyl)-1-phenylprop-2-yn-1-ol (yield=71% after recrystallisation from EtOAc and hexane, m.p.=186-187° C. (uncorrected), λmax in toluene=500 nm, i.e. red).

reactant | 3(4-Morpholinophenyl)-3-phenyl-3H-naphtho[2,1-b]pyran | O1CCN(CC1)C1=CC=C(C=C1)C1(C=CC2=C(O1)C=CC1=CC=CC=C12)C1=CC=CC=C1 | C29H25NO2
reactant | 2-naphthol | C1=C(C=CC2=CC=CC=C12)O | C10H8O
product | 1(4-morpholinophenyl)-1-phenylprop-2-yn-1-ol | yield=71% | O1CCN(CC1)C1=CC=C(C=C1)C(C#C)(O)C1=CC=CC=C1 | C19H19NO2
